US07704996B2
To a solution of 5-fluoro-2-nitrophenol (10.0 mmol) and triethylamine (12.0 mmol) in CH2Cl2 (100 mL) is added trifluoromethanesulfonic acid anhydride (11.0 mmol) at 0° C. After stirring at the same temperature for 0.5 h under N2, the reaction mixture is diluted with H2O. The mixture is extracted with CH2Cl2 and AcOEt, respectively (×2). The combined organic extracts are dried over Na2SO4, filtered through a short pad of celite and silica gel, washed with AcOEt. The filtrate is concentrated in vacuo to give trifluoromethanesulfonic acid 5-fluoro-2-nitrophenyl ester as a yellow oil.

reactant | 5-fluoro-2-nitrophenol | 10.0 mmol | FC=1C=CC(=C(C1)O)[N+](=O)[O-] | C6H4FNO3
reactant | triethylamine | 12.0 mmol | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulfonic acid anhydride | 11.0 mmol | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
solvent | H2O | O | H2O
product | trifluoromethanesulfonic acid 5-fluoro-2-nitrophenyl ester | FC=1C=CC(=C(C1)OS(=O)(=O)C(F)(F)F)[N+](=O)[O-] | C7H3F4NO5S
